US05786355
To 21.2 g of 2,4,5-trimethoxybenzoic acid, 30 ml of thionyl chloride were added at room temperature, followed by heating under reflux for 4 hours. The reaction mixture was thereafter distilled off under reduced pressure. To the residue so obtained, 50 ml of dichloromethane, 10 ml of methanol and 20 ml of triethylamine were added, followed by stirring under ice cooling for one hour. After the completion of the reaction, water was added to the reaction mixture, followed by extraction with chloroform. The extract was washed successively with 1N hydrochloric acid, a saturated aqueous solution of sodium bicarbonate, water and saturated saline and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, whereby a crude product was obtained. The crude product so obtained was washed with methanol, whereby 14.6 g of methyl 2,4,5-trimethoxybenzoate were obtained (yield: 65%).

reactant | 2,4,5-trimethoxybenzoic acid | 21.2 g | COC1=C(C(=O)O)C=C(C(=C1)OC)OC | C10H12O5
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | methanol | 10 ml | CO | CH4O
solvent | water | O | H2O
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | methyl 2,4,5-trimethoxybenzoate | 14.6 g, yield: 65% | COC1=C(C(=O)OC)C=C(C(=C1)OC)OC | C11H14O5
